US07465731B2
To a mixture of (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylic acid (crude of reaction), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (166.4 mg), and 1-hydroxybenzotriazole (191.9 mg) in DMF (3.4 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (251 uL), which was stirred at room temperature for 16.5 hours. To the resultant was added sat. NaHCO3 aq. The mixture was extracted with CH2Cl2. The organic phase was washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (312 mg) as a yellow amorphous.

reactant | (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylic acid | COC=1C=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)O)C=CC1 | C19H22N4O3
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 166.4 mg | O1C(CCCC1)ON | C5H11NO2
reactant | 1-hydroxybenzotriazole | 191.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 251 uL | CN(CCCN=C=NCC)C | C8H17N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3.4 mL | CN(C)C=O | C3H7NO
product | (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 312 mg | COC=1C=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC1 | C24H31N5O4
